US04154847
To a mixture of 2.1 g. (0.0079 mole) of 2-nitro-3-phenylbenzofuran-7-carboxaldehyde in 70 ml. of ethanol is added 1.34 g. (0.012 mole) of semicarbazide hydrochloride and 1.07 g. (0.013 mole) of sodium acetate. The mixture is heated to its reflux temperature and maintained at reflux for 3 hours. The precipitated product is separated by filtration, washed with water and diethyl ether. The solid is washed with hot dichloroethane, separated by filtration, then dissolved in a mixture of 650 ml. of chloroform and 100 ml. of acetone by heating. This solution is washed twice with water, once with sodium bicarbonate solution, again with water, once with dilute hydrochloric acid, and twice with water. The solution is dried and the dry solution is evaporated to provide solid 2-nitro-3-phenylbenzofuran-7-carboxaldehyde semicarbazone, m.p. 249° C. (dec.).

reactant | 2-nitro-3-phenylbenzofuran-7-carboxaldehyde | 0.0079 mole | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2C=O | C15H9NO4
reactant | semicarbazide hydrochloride | 0.012 mole | Cl.NNC(=O)N
reactant | sodium acetate | 0.013 mole | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-nitro-3-phenylbenzofuran-7-carboxaldehyde semicarbazone | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2C=NNC(=O)N | C16H12N4O4
